US06045720
A solution of 194 g (1 mol) of pentanediol monobenzyl ether in 1 L of tetrahydrofuran (hereinafter referred to THF) was added to a solution of 48 g (2 mol) of sodium hydride in 100 ml of THF under cooling. Then, the mixture was heated under reflux for 2 hours and cooled to the room temperature before 140 g (1.3 mol) of ethyl bromide in 300 ml of THF was added dropwise. The mixture was heated under reflux for 6 hours. 500 ml of water was added and extraction was carried out with 500 ml of diethyl ether. After the organic layer was neutralized and washed with water and dried over anhydrous magnesium sulfate and concentrated. The oily residue was purified by distillation under the reduced pressure, to obtain 192 g of pentanediol benzyl ethyl ether. Boiling point; 110-117° C. (1 mmHg).

reactant | pentanediol monobenzyl ether | 1 mol, 194 g | C(C1=CC=CC=C1)OC(CCCC)O | C12H18O2
reactant | sodium hydride | 2 mol, 48 g | [H-].[Na+]
reactant | ethyl bromide | 1.3 mol, 140 g | C(C)Br | C2H5Br
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 300 ml | O1CCCC1 | C4H8O
product | pentanediol benzyl ethyl ether | 192 g | C(C)OC(CCCC)OCC1=CC=CC=C1 | C14H22O2
